US06699880B1
Seventy (70) mg of 2-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]amino-3-nitropyridine was dissolved in 5 ml of methanol, and to which 20 mg of 10% palladium/carbon catalyst was added to effect catalytic reduction at room temperature under atmospheric pressure of hydrogen. After filtering the catalyst off and drying the filtrate to solid, the resulting residue was purified by silica gel column chromatography (chloroform/methanol=95/5) to give 20 mg of 3-amino-2-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]aminopyridin.

reactant | 2-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]amino-3-nitropyridine | COC(=O)N1CCC(CC1)N1CCC(CC1)NC1=NC=CC=C1[N+](=O)[O-] | C17H25N5O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium/carbon | 20 mg | [Pd] | Pd
product | 3-amino-2-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]aminopyridin | 20 mg | NC=1C(=NC=CC1)NC1CCN(CC1)C1CCN(CC1)C(=O)OC | C17H27N5O2
